US09445594B2
Preparation of 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acetic acid (C19)
In a 100 mL flask, methyl 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acetate (3.45 g, 9.14 mmol) and lithium hydroxide.hydrate (1.15 g, 27.4 mmol) were diluted with tetrahydrofuran (24.4 mL), methanol (24.4 mL), water (12.2 mL). The reaction was stirred at room temperature for 2 hours. The solvent was evaporated and the resulting solid was diluted with water and adjusted to pH 3 with hydrogen chloride (1 N). The resulting precipitate was extracted with ethyl acetate (5×100 mL). The combined organics were dried over magnesium sulfate, filtered, and concentrated to give the title compound as a white solid (3.27 g, 96%): 1H NMR (400 MHz, DMSO-d6) δ 12.41 (s, 1H), 9.40 (s, 1H), 8.15-8.03 (m, 4H), 7.63 (dq, J=7.9, 1.0 Hz, 2H), 7.49-7.36 (m, 2H), 3.66 (s, 2H), 3.35 (s, 3H); 19F NMR (376 MHz, DMSO-d6) δ −56.98; ESIMS m/z 364 ([M+H]+).

reactant | methyl 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acetate | 9.14 mmol, 3.45 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CC(=O)OC)(F)F | C18H14F3N3O3
reactant | lithium hydroxide | [OH-].[Li+]
solvent | tetrahydrofuran | 24.4 mL | O1CCCC1 | C4H8O
solvent | methanol | 24.4 mL | CO | CH4O
solvent | water | 12.2 mL | O | H2O
product | 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acetic acid | 3.27 g, 96% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CC(=O)O)(F)F | C17H12F3N3O3
